US09120884B2
In a 1000 mL round flask, 9,9-dihexyl-2-methyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one (85 g, 211.1 mmol) was dissolved in THF 400 mL and ethanol 400 mL, and then stirred. Sodium borohydride (NaBH4) (10 g, 265.0 mmol) was added to the reaction product in five lots, and then stirred for 12 hours. The resultant mixture, after removal of solvent, was dissolved in ethylacetate, and then washed with water three times. The organic layer was dried over magnesium sulfate, followed by removal of volatile materials and drying, to thereby obtain 82.0 g of 9,9-dihexyl-2-methyl-1,2,3,9-tetrahydrocyclopenta[b]fluoren-1-ol (yield: 96.0%) (two isomers), as highly viscous oil.

reactant | 9,9-dihexyl-2-methyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one | 211.1 mmol, 85 g | C(CCCCC)C1(C2=CC=CC=C2C=2C=C3C(=CC12)C(C(C3)C)=O)CCCCCC | C29H38O
reactant | Sodium borohydride | 265.0 mmol, 10 g | [BH4-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | ethanol | 400 mL | C(C)O | C2H6O
product | 9,9-dihexyl-2-methyl-1,2,3,9-tetrahydrocyclopenta[b]fluoren-1-ol | 82.0 g, yield: 96.0% | C(CCCCC)C1(C2=CC=CC=C2C=2C=C3C(=CC12)C(C(C3)C)O)CCCCCC | C29H40O
